US07855292B2
E. 4-Chloro-2-(quinoxaline-5-sulfonylamino)benzoic acid
A solution of LiOH.H2O (0.32 g, 7.7 mmol) in water (5 mL) was added to a solution of 4-chloro-2-(quinoxaline-5-sulfonylamino)benzoic acid methyl ester (0.58 g, 1.5 mmol) and THF (10 mL). The biphasic mixture was stirred rapidly at rt for 16 h, then adjusted to pH 5 with 1 M HCl. The resulting precipitate was collected by filtration to afford the acid as a white solid (0.51 g, 92%). MS (ESI+): calcd. for C15H10ClN3O4S, 363.0; m/z found, 364 [M+H]+. 1H NMR (500 MHz, DMSO-d6): 14.20 (br s, 1H), 11.73 (s, 1H), 9.12 (d, J=1.6, 1H), 9.00 (d, J=1.5, 1H), 8.65 (d, J=7.3, 1H), 8.42 (d, J=8.3, 1H), 8.06 (t, J=7.8, 1H), 7.80 (d, J=8.5, 1H), 7.63 (d, J=2.0, 1H), 7.07 (dd, J=8.4, 1.9, 1H).

reactant | LiOH.H2O | 7.7 mmol, 0.32 g | O[Li].O
reactant | 4-chloro-2-(quinoxaline-5-sulfonylamino)benzoic acid methyl ester | 1.5 mmol, 0.58 g | COC(C1=C(C=C(C=C1)Cl)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1)=O | C16H12ClN3O4S
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | HCl | 1 M | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 4-Chloro-2-(quinoxaline-5-sulfonylamino)benzoic acid | 0.51 g, 92% | ClC1=CC(=C(C(=O)O)C=C1)NS(=O)(=O)C=1C=2N=CC=NC2C=CC1 | C15H10ClN3O4S
